
.subckt async_inverter input out
*.ipin input
*.opin out
XM5 out input VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out input VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/shift_reg_8bit.sym # of pins=12
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/shift_reg_8bit.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/shift_reg_8bit.sch

.subckt shift_reg_8bit serial_in clk rst_n Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 done
*.ipin serial_in
*.ipin clk
*.ipin rst_n
*.opin Q0
*.opin Q1
*.opin Q2
*.opin Q3
*.opin Q4
*.opin Q5
*.opin Q6
*.opin Q7
*.opin done
x1 serial_in clk rst_n Q0 dff_cell_set
x2 Q0 clk rst_n Q1 dff_cell
x3 Q1 clk rst_n Q2 dff_cell
x4 Q2 clk rst_n Q3 dff_cell
x5 Q3 clk rst_n Q4 dff_cell
x6 Q4 clk rst_n Q5 dff_cell
x7 Q5 clk rst_n Q6 dff_cell
x8 Q6 clk rst_n Q7 dff_cell
x9 Q7 clk rst_n done dff_cell
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/bit_reg.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/bit_reg.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/bit_reg.sch

.subckt bit_reg comp_out bit_out en rst_n clk
*.ipin comp_out
*.ipin en
*.ipin clk
*.ipin rst_n
*.opin bit_out
x_nand_set VDD comp_out set_n en VSS async_nand2
x_inv_set set_n set async_inverter
x_inv_rst rst_n rst async_inverter
x_nor_q rst bit_out_bar bit_out async_nor2
x_nor_qb set bit_out bit_out_bar async_nor2
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nor2.sym # of pins=3
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nor2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nor2.sch

.subckt async_nor2 A B Y
*.ipin A
*.ipin B
*.opin Y
x1 A A_b async_inverter
x2 B B_b async_inverter
x3 VDD A_b net1 B_b VSS async_nand2
x4 net1 Y async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_delay_chain.sym # of pins=2
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_delay_chain.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_delay_chain.sch

.subckt async_delay_chain in out
*.ipin in
*.opin out
x1 in net1 async_inverter
x2 net1 net2 async_inverter
x3 net2 net3 async_inverter
x4 net3 net4 async_inverter
x5 net4 net5 async_inverter
x6 net5 net6 async_inverter
x7 net6 net7 async_inverter
x8 net7 net8 async_inverter
x9 net8 net9 async_inverter
x10 net9 net10 async_inverter
x11 net10 net11 async_inverter
x12 net11 net12 async_inverter
x13 net12 net13 async_inverter
x14 net13 net14 async_inverter
x15 net14 net15 async_inverter
x16 net15 net16 async_inverter
x17 net16 net17 async_inverter
x18 net17 net18 async_inverter
x19 net18 net19 async_inverter
x20 net19 net20 async_inverter
x21 net20 out async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nand2.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sch

.subckt async_nand2 vdd input_A output input_B vss
*.ipin input_A
*.ipin input_B
*.opin output
*.iopin vdd
*.iopin vss
XM2 net1 input_B vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 output input_A vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 output input_B vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 output input_A net1 vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_start_delay.sym # of pins=2
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_start_delay.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_start_delay.sch

.subckt async_start_delay in out
*.ipin in
*.opin out
x1 in net1 async_inverter
x2 net1 net2 async_inverter
x3 net2 net3 async_inverter
x4 net3 net4 async_inverter
x5 net4 net5 async_inverter
x6 net5 net6 async_inverter
x7 net6 net7 async_inverter
x8 net7 net8 async_inverter
x9 net8 net9 async_inverter
x10 net9 net10 async_inverter
x11 net10 net11 async_inverter
x12 net11 net12 async_inverter
x13 net12 net13 async_inverter
x14 net13 net14 async_inverter
x15 net14 net15 async_inverter
x16 net15 net16 async_inverter
x17 net16 net17 async_inverter
x18 net17 net18 async_inverter
x19 net18 net19 async_inverter
x20 net19 net20 async_inverter
x21 net20 net21 async_inverter
x22 net21 net22 async_inverter
x23 net22 net23 async_inverter
x24 net23 net24 async_inverter
x25 net24 net25 async_inverter
x26 net25 net26 async_inverter
x27 net26 net27 async_inverter
x28 net27 net28 async_inverter
x29 net28 net29 async_inverter
x30 net29 net30 async_inverter
x31 net30 net31 async_inverter
x32 net31 net32 async_inverter
x33 net32 net33 async_inverter
x34 net33 net34 async_inverter
x35 net34 net35 async_inverter
x36 net35 net36 async_inverter
x37 net36 net37 async_inverter
x38 net37 net38 async_inverter
x39 net38 net39 async_inverter
x40 net39 net40 async_inverter
x41 net40 net41 async_inverter
x42 net41 net42 async_inverter
x43 net42 net43 async_inverter
x44 net43 net44 async_inverter
x45 net44 out async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/dff_cell_set.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell_set.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell_set.sch

.subckt dff_cell_set D clk rst_n Q
*.ipin D
*.ipin clk
*.ipin rst_n
*.opin Q
x_inv_d D D_b async_inverter
x_dff D_b clk rst_n net1 dff_cell
x_inv_q net1 Q async_inverter
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/dff_cell.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/dff_cell.sch

.subckt dff_cell D clk rst_n Q
*.ipin D
*.ipin clk
*.ipin rst_n
*.opin Q
XM1 clk_n clk VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 clk_n clk VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 M clk_n D_int VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 D_int clk M VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 M_bar M VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 M_bar M VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 M M_bar VDD VDD pfet_03v3 L=2.0u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 M M_bar VSS VSS nfet_03v3 L=2.4u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 S clk M_bar VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 M_bar clk_n S VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 Q_bar S VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 Q_bar rst_n VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 Q_bar S net1 VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net1 rst_n VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 Q Q_bar VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 Q Q_bar VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 S Q_bar VDD VDD pfet_03v3 L=2.0u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM18 S Q_bar VSS VSS nfet_03v3 L=2.4u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM19 D_int D VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM20 D_int D VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end


.subckt async_sar sample_en done vdd dout[1] dout[3] dout[4] dout[6] dout[7] comp_out_p dout[0] dout[2] dout[5] rst_latch comp_done start dac_in[0] dac_in[1] dac_in[2] dac_in[3] dac_in[4] dac_in[5] dac_in[6] dac_in[7] vss
x_inv_srclk comp_done comp_done_b async_inverter
x_sr8 vss comp_done_b rst_n_int Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 sr_done shift_reg_8bit
x_inv_se1 start start_inv async_inverter
x_inv_se2 start_inv sample_en async_inverter
x_inv_rst start rst_n_int async_inverter
x_bit7 comp_out_p dout[7] Q0 rst_n_int comp_done bit_reg
x_nor_dq7 dout[7] Q0 dac_n7 async_nor2
x_nor_st7 dac_n7 start dac_in[7] async_nor2
x_bit6 comp_out_p dout[6] Q1 rst_n_int comp_done bit_reg
x_nor_dq6 dout[6] Q1 dac_n6 async_nor2
x_nor_st6 dac_n6 start dac_in[6] async_nor2
x_bit5 comp_out_p dout[5] Q2 rst_n_int comp_done bit_reg
x_nor_dq5 dout[5] Q2 dac_n5 async_nor2
x_nor_st5 dac_n5 start dac_in[5] async_nor2
x_bit4 comp_out_p dout[4] Q3 rst_n_int comp_done bit_reg
x_nor_dq4 dout[4] Q3 dac_n4 async_nor2
x_nor_st4 dac_n4 start dac_in[4] async_nor2
x_bit3 comp_out_p dout[3] Q4 rst_n_int comp_done bit_reg
x_nor_dq3 dout[3] Q4 dac_n3 async_nor2
x_nor_st3 dac_n3 start dac_in[3] async_nor2
x_bit2 comp_out_p dout[2] Q5 rst_n_int comp_done bit_reg
x_nor_dq2 dout[2] Q5 dac_n2 async_nor2
x_nor_st2 dac_n2 start dac_in[2] async_nor2
x_bit1 comp_out_p dout[1] Q6 rst_n_int comp_done bit_reg
x_nor_dq1 dout[1] Q6 dac_n1 async_nor2
x_nor_st1 dac_n1 start dac_in[1] async_nor2
x_bit0 comp_out_p dout[0] Q7 rst_n_int comp_done bit_reg
x_nor_dq0 dout[0] Q7 dac_n0 async_nor2
x_nor_st0 dac_n0 start dac_in[0] async_nor2
x_inv_cd comp_done comp_done_inv async_inverter
x_del comp_done comp_done_delayed_n async_delay_chain
x_nand_settle vdd comp_done_inv gate_settle comp_done_delayed_n vss async_nand2
x_start_del start start_n async_start_delay
x_inv_dn done done_n async_inverter
x_nand_ctrl vdd start_n gate_ctrl done_n vss async_nand2
x_nor_rstl gate_settle gate_ctrl rst_latch async_nor2
x_nand_done vdd Q7 done_nand comp_done vss async_nand2
x_inv_done done_nand done async_inverter
.ends async_sar
